US06703387B2
To a mixture of 56 mg (0.45 mmol) of 2-fluorobenzaldehyde and 64 mg (50 mmol) of 4-chlorophenol in 2.5 ml of dimethylformamide was added 75 mg (0.54 mmol) of sodium hydrogen carbonate. The mixture was heated at 95° C. for 18 hours. To the mixture at ambient temperature was added 118 mg (0.36 mmol) of (8-fluoro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester followed by 25 mg (0.63 mmol) of sodium hydride (60% dispersion in mineral oil). The mixture was stirred for 2 hours. The mixture was partitioned between 12 ml of water and 3×4 ml of dichloromethane. The combined organic portions were dried (magnesium sulphate), filtered and evaporated. The product was purified by column chromatography (20 g IST pre-packed column) eluting with ethyl acetate and treated with 0.15 ml of 4M hydrogen chloride in dioxan. The solvent was evaporated to leave a red gum which was recrystallised from acetone/ethyl acetate/diethyl ether to give 17 mg of (E)-5-[2-(4-chlorophenoxy)styryl]-8-fluoro-2,3-dihydro-1-methyl-1H-1,4-benzodiazepine dihydrochloride as a red solid; MS: m/e 452 (M+).

reactant | 2-fluorobenzaldehyde | 0.45 mmol, 56 mg | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | 4-chlorophenol | 50 mmol, 64 mg | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | sodium hydrogen carbonate | 0.54 mmol, 75 mg | C(O)([O-])=O.[Na+]
reactant | (8-fluoro-1-methyl-1,2,3,4-tetrahydrobenzo[e][1,4]diazepin-5-ylidenemethyl)phosphonic acid diethyl ester | 0.36 mmol, 118 mg | C(C)OP(OCC)(=O)C=C1C2=C(N(CCN1)C)C=C(C=C2)F | C15H22FN2O3P
reactant | sodium hydride | 0.63 mmol, 25 mg | [H-].[Na+]
solvent | dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | (E)-5-[2-(4-chlorophenoxy)styryl]-8-fluoro-2,3-dihydro-1-methyl-1H-1,4-benzodiazepine dihydrochloride | 17 mg | Cl.Cl.ClC1=CC=C(OC2=C(C=C\C\3=N/CCN(C4=C3C=CC(=C4)F)C)C=CC=C2)C=C1 | InChI=1S/C24H20ClFN2O.2ClH/c1-28-15-14-27-22(21-12-9-19(26)16-23(21)28)13-6-17-4-2-3-5-24(17)29-20-10-7-18(25)8-11-20;;/h2-13,16H,14-15H2,1H3;2*1H
